US04464533
Substantially equimolar amounts of 2,6-dichloroquinoline and the potassium salt of 3-hydroxybenzoic acid are reacted, in an inert organic solvent, e.g., dimethylsulfoxide giving 5-(6-chloro-2-quinolinoxy)benzoic acid which is nitrated, with, for example, potassium nitrate in the presence of concentrated sulfuric acid to give the corresponding 2-nitrobenzoic acid. The 2-nitrobenzoic acid is then reacted with a suitably substituted--halo compound, e.g., 2-chloropropionate, as described hereinabove.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | potassium | [K] | K
reactant | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 5-(6-chloro-2-quinolinoxy)benzoic acid | ClC=1C=C2C=CC(=NC2=CC1)OC=1C=CC=C(C(=O)O)C1 | C16H10ClNO3
